US07312248B2
To a suspension of 2-thiophenemethanol (4.15 mL, 43.64 mmol), triphenylphosphine (12.59 g, 48.01 mmol) and N-hydroxyphthalimide (7.83 g, 48.01 mmol) in THF (120 mL) at 0° C. was added dropwise diethylazodicarboxylate (7.56 mL, 48.01 mmol) in THF (20 mL). The reaction mixture was allowed to stir for 15 h after which the solvent was removed under vacuum to dryness. Et2O (50 mL) was added to triturate the triphenylphosphine oxide and diethylhydrazinedicarboxylate, which was filtered off and washed with a little Et2O. The ethereal solution was concentrated under vacuum to give a residue which was filtered through a pad of silica (eluting with EtOAc/PE, 3:7). Removal of the solvent under reduced pressure afforded N-(thiophen-2-ylmethoxy)phthalimide (1.50 g, 13%), as a pale yellow solid.

reactant | 2-thiophenemethanol | 43.64 mmol, 4.15 mL | S1C(=CC=C1)CO | C5H6OS
reactant | triphenylphosphine | 48.01 mmol, 12.59 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-hydroxyphthalimide | 48.01 mmol, 7.83 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | diethylazodicarboxylate | 48.01 mmol, 7.56 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-(thiophen-2-ylmethoxy)phthalimide | 1.50 g, 13% | S1C(=CC=C1)CON1C(C=2C(C1=O)=CC=CC2)=O | C13H9NO3S
